US06384041B1
To a solution of 300 mg (0.770 mmol) of [[2-(methylthio)-6-ethyl-7-[(3-fluorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester in 5 mL of chloroform was added 0.21 mL of oxalyl chloride followed by 0.09 mL of pyridine. The reaction was stirred for 2 days at ambient temperature then quenched into 4.0 mL of dilute ammonium hydroxide. The product was extracted into 4.0 mL of methylene chloride. The organic phase was washed with water, dried with sodium sulfate and concentrated to 430 mg of tan solid. The residue was purified by flash chromatography (45 g of silica, ethyl acetate) to provide 260 mg (73%) of [[2-(methylthio)-5-(aminooxoacetyl)-6-ethyl-7-[(3-fluorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester as a solid. nmr (300 MHz, dmso-d6) δ1.00 (t, 3H), 2.45 (s, 3H), 2.90 (q, 2H), 3.65 (s, 3H), 4.97 (s, 2H), 5.52 (s, 2H), 6.91 (d, 1H), 7.03 (d, 1H), 7.12 (dt, 1H), 7.47 (dt, 1H), 7.60 (s, 1H), 8.01 (s, 1H)

reactant | [[2-(methylthio)-6-ethyl-7-[(3-fluorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 0.770 mmol, 300 mg | COC(COC=1C2=C(N=C(N1)SC)N(C(=C2)CC)CC2=CC(=CC=C2)F)=O | C19H20FN3O3S
reactant | oxalyl chloride | 0.21 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyridine | 0.09 mL | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | [[2-(methylthio)-5-(aminooxoacetyl)-6-ethyl-7-[(3-fluorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 260 mg, 73% | COC(COC=1C2=C(N=C(N1)SC)N(C(=C2C(C(=O)N)=O)CC)CC2=CC(=CC=C2)F)=O | C21H21FN4O5S
